US07973067B2
Step 1: 5-(4-Chlorophenyl)-3-methylsulfanyl-5,6-dihydro-4H-[1,2,4]thiadiazine 1,1-dioxide
2-(4-Chlorophenyl)ethenesulfonyl chloride DE1 is treated with 1.2 equivalents of S-methyl isothiourea hemisulfate and a slight excess of 1N NaOH in acetone. After 12 h at RT the mixture is concentrated in vacuo and the precipitate collected to give the title compound.

reactant | 2-(4-Chlorophenyl)ethenesulfonyl chloride | ClC1=CC=C(C=C1)C=CS(=O)(=O)Cl | C8H6Cl2O2S
reactant | S-methyl isothiourea hemisulfate | 1.2 equivalents | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-(4-Chlorophenyl)-3-methylsulfanyl-5,6-dihydro-4H-[1,2,4]thiadiazine 1,1-dioxide | ClC1=CC=C(C=C1)C1NC(=NS(C1)(=O)=O)SC | C10H11ClN2O2S2
